US05053509
3-Ethoxycarbonyl-7,9-difluoro-8-(4-hydroxy-1-piperazinyl)-1-methyl-4-oxo-1,4-dihydrobenzo [b][1,8]naphthyridine was prepared under the conditions of Example 39, but starting with 3-ethoxycarbonyl-7,8,9-trifluoro-1-methyl-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine (1.9 g), 1-hydroxypiperazine dihydrochloride (1 g) and potassium carbonate (1.6 g). 3-Ethoxycarbonyl-7,9-difluoro-8-(4-hydroxy-1-piperazinyl)-1-methyl-4-oxo-1,4-dihydrobenzo [b][1,8]naphthyridine (1.4 g) is obtained in the form of a yellow solid, m.p. 255°-258° C.

reactant | 3-ethoxycarbonyl-7,8,9-trifluoro-1-methyl-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine | 1.9 g | C(C)OC(=O)C=1C(C=2C=C3C(=NC2N(C1)C)C(=C(C(=C3)F)F)F)=O | C16H11F3N2O3
reactant | 1-hydroxypiperazine dihydrochloride | 1 g | Cl.Cl.ON1CCNCC1
reactant | potassium carbonate | 1.6 g | C([O-])([O-])=O.[K+].[K+]
product | 3-Ethoxycarbonyl-7,9-difluoro-8-(4-hydroxy-1-piperazinyl)-1-methyl-4-oxo-1,4-dihydrobenzo [b][1,8]naphthyridine | 1.4 g | C(C)OC(=O)C=1C(C=2C=C3C(=NC2N(C1)C)C(=C(C(=C3)F)N3CCN(CC3)O)F)=O | C20H20F2N4O4
